US05182246
In 1.0 ml of DME were heated 1.0 mmol of 1-phenyl-1-propyne and 0.01 mmol of tetraethylammonium μ-hydride-bis(pentacarbonylchromium(O)) at 100° C. and at a hydrogen pressure of 50 atm for 18 hours with stirring. GLC analysis of the reaction mixture revealed that propylbenzene and β-methylstyrene were produced in a yield of 79% and 19%, respectively.

reactant | 1-phenyl-1-propyne | 1.0 mmol | C1(=CC=CC=C1)C#CC | C9H8
reactant | hydrogen | [H][H] | H2
reactant | propylbenzene | C(CC)C1=CC=CC=C1 | C9H12
solvent | DME | 1.0 ml | COCCOC | C4H10O2
product | β-methylstyrene | yield of 79% | CC=CC1=CC=CC=C1 | C9H10
